US07910592B2
Methyl 3′-iodo-4′-methoxy-2-methylbiphenyl-4-carboxylate (500 mg, 1.31 mmol), bis(pinacolato)diboron (353 mg, 1.57 mmol), 1,1′-bis(diphenylphosphino)ferrocene-palladium dichloride dichloromethane adduct (214 mg, 0.262 mmol), potassium acetate (257 mg, 2.616 mmol) and 1,4-dioxane (2.5 mL) were sealed in a microwave vessel. The reaction mixture was subjected to microwave irradiation at 140° C. for 20 min then at 130° C. for additional 30 min. The crude reaction was treated with brine followed by EtOAc extraction. The combined extracts were dried over Na2SO4, filtered and concentrated in vacuo to afford crude methyl 4′-methoxy-2-methyl-3′-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)biphenyl-4-carboxylate, as a dark oil. This was used as is in the next reaction. LCMS calc.=382.20; found=383.41 (M+1)+.

reactant | Methyl 3′-iodo-4′-methoxy-2-methylbiphenyl-4-carboxylate | 1.31 mmol, 500 mg | IC=1C=C(C=CC1OC)C1=C(C=C(C=C1)C(=O)OC)C | C16H15IO3
reactant | bis(pinacolato)diboron | 1.57 mmol, 353 mg | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 2.616 mmol, 257 mg | C(C)(=O)[O-].[K+]
reactant | 1,4-dioxane | 2.5 mL | O1CCOCC1 | C4H8O2
solvent | brine | [Cl-].[Na+].O
catalyst | 1,1′-bis(diphenylphosphino)ferrocene-palladium dichloride dichloromethane | 0.262 mmol, 214 mg | ClCCl.[Pd](Cl)Cl.C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
product | methyl 4′-methoxy-2-methyl-3′-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)biphenyl-4-carboxylate | COC1=C(C=C(C=C1)C1=C(C=C(C=C1)C(=O)OC)C)B1OC(C(O1)(C)C)(C)C | C22H27BO5
